US09024027B2
To a solution of methyl 2-(7-nitro-1H-indol-1-yl)acetate (0.37 g, 1.580 mmol) in THF (20 ml), LiOH 1N (3.16 ml, 3.16 mmol) was added at room temperature. The reaction was stirred at the same temperature for 16 hours. Aqueous 2N HCl was added and the solvent was partially removed under vacuum. The remaining aqueous phase was extracted with ethyl acetate; the organic phase was dried over sodium sulfate and the solvent was evaporated under vacuum affording 2-(7-nitro-1H-indol-1-yl)acetic acid (0.33 g, 1.499 mmol, 95% yield). MS/ESI+ 220.9 [MH]+. This compound was used without any additional purification.

reactant | methyl 2-(7-nitro-1H-indol-1-yl)acetate | 1.580 mmol, 0.37 g | [N+](=O)([O-])C=1C=CC=C2C=CN(C12)CC(=O)OC | C11H10N2O4
reactant | LiOH | 3.16 mmol, 1N, 3.16 ml | [Li+].[OH-]
reactant | HCl | 2N | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-(7-nitro-1H-indol-1-yl)acetic acid | 1.499 mmol, 0.33 g, 95% yield | [N+](=O)([O-])C=1C=CC=C2C=CN(C12)CC(=O)O | C10H8N2O4
